US07442717B2
a) 2-(2-Oxopropyl)isoindole-1,3-dione
Phthalimide (3 g) was dissolved in dry tetrahydrofuran (70 ml) and added dropwise at room temperature to a suspension of sodium hydride (539 mg) in tetrahydrofuran (15 ml). This was followed by heating at 40° C. for one hour, and then a solution of chloroacetone (1.99 g) dissolved in tetrahydrofuran (15 ml) was added dropwise. The mixture was then kept at the reflux temperature for 15 hours. After cooling, it was added to an ice/water mixture and extracted three times with ethyl acetate. The combined organic phases were washed once with saturated sodium chloride solution and then dried over magnesium sulfate. The solvent was removed in vacuo and the residue was chromatographed on silica gel (n-heptane/ethyl acetate 2:1). 2.9 g of the title compound were isolated.

reactant | Phthalimide | 3 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | sodium hydride | 539 mg | [H-].[Na+]
reactant | chloroacetone | 1.99 g | ClCC(C)=O | C3H5ClO
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-(2-Oxopropyl)isoindole-1,3-dione | 2.9 g | O=C(CN1C(C2=CC=CC=C2C1=O)=O)C | C11H9NO3
